Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
hydrochlorothiazide / morphine
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 Ms. ___ is a ___ right-handed White
woman with a past medical history of an atypical headache
disorder since ___ yo., also cervical fusion of C4-C5-C6 in 
___ and DM2, HTN, dyslipidemia, who now presents to the ED for
an exacerbation of her usual headaches; this is her third ED
visit over the last week, and today she was referred by her 
outpt
neurologist, Dr. ___ at ___. 
Starting at ___ yo., Ms. ___ has had periodic exacerbations
of her left-sided occipital ___. This was initially diagnosed 
as
a nerve impingement, and for a long time, she treated it
symptomatically with aspirin or NSAIDs and heat. About ___ years
ago, she received a diagnosis of atypical migraine at ___. She
was given sumatriptan as a preventative, but thinks that this 
has
only once aborted her headaches, and has generally been
unhelpful. She has never been on a preventative medication. More
recently, she has been taking daily tramadol and acetaminophen
but was told to stop this for fear that she might be at risk of
rebound headaches. She has been taking gabapentin 300 mg BID for
cervical radiculopathy but this seems to have no effect on her
headaches. Ms. ___ stopped taking her daily ___
medications about 2 weeks before the current exacerbation
started. 
On ___, pt started developing a headache that is similar to her
previous ones but much more severe; in fact, it is the worst she
has ever had. It is otherwise similar in its features: short
pangs of electric ___ at her occiput, in bursts, exacerbated by
putting pressure on the area. Each brief stab of ___ radiates 
to
the left postauricular area and vertex. Initially, attacks were
about three times per minute but have since greatly increased in
frequency. She has been in excruciating ___ for most of the day
but has generally been able to sleep, with recurrence of ___ in
the morning. Denies
nausea, vomiting, photophobia. Loud sounds annoy her but do not
make the headaches worse. She denies dizziness or aura. She has
allodynia - her hair is sensitive to the touch and to combing.
Ms. ___ went to our ED on ___, and was given ketorolac IV
without much relief; she was sent home but the ___ recurred in
the early morning hours of ___ at ___ severity. Ms. ___
than went to ___ on ___, where she again 
received
ketorolac without relief but then received a local
steroid/lidocaine injection, which gave her almost complete
relief for about 8 hours. 
Ms. ___ went to see Dr. ___ in the office today. He 
gave
her a prescription for a trial of ___ and a prednisone
taper. Ms. ___ took the ___ without relief but 
did
not start the steroid taper before coming to the ED. Dr. ___ urged the pt to visit the ED to get a CT brain without
contrast to evaluate for intraparenchymal hemorrhage,
subarachnoid hemorrhage, and mass. When seen by me, Ms. 
___
was in ___ ___, with frequent pangs of ___ interrupting our
interview. He also recommended to the ED that they consider
giving her a valproate infusion of 1,000mg over 30 minutes iv to
stop potential status migrainosus, and that they request a
neurology consult for her in the ED. 
In the ED, pt received the valproate infusion at our
recommendation but had no relief from this. She then received
hydromorphone 1 mg IV with partial relief for a short time, and
was then given another 1 mg. 

 
Past Medical History:
- Diabetes Mellitus, type 2, claims last A1c was 7.6.
- Cesarean section in ___ and ___
- Total knee replacement of the left leg in ___
- History of neck ___ with an MRI c-spine in ___ showing 
severe
C5/6 stenosis. Cervical fusion of C4-C5-C6 in ___
- Lumbar laminectomy in ___
- Partial thyroidectomy in ___
- In the last ___, she had an accident at a pool. She was hit
by
someone in the neck and fell into a pool. She had a brief 
episode
of confusion. 
- In the mid ___, she had a moped accident. She
fell off the moped (while wearing a helmet). She did have loss 
of
consciousness. 

 
Social History:
___
Family History:
She has a ___ year old daughter with
migraines, a father with myasthenia, and nil else neurological.

 
Physical Exam:
VS T:97.8 HR:86 BP:134/91 RR:18 SaO2:95%

General: in visible discomfort due to headache, holding her head
or applying a cold pack to her left temporo-occipital area
- Head: NC/AT, pressure over the exit of the left occipital 
nerve
elicits tenderness; no conjunctival pallor or icterus, no
oropharyngeal lesions 
- Neck: Some limitation of movement in all planes but no nuchal
rigidity. ACDF and thyroidectomy scars. No lymphadenopathy or
thyromegaly.
- Cardiovascular: carotids with normal volume & upstroke; RRR, 
no
M/R/G 
- Respiratory: Nonlabored, clear to auscultation with good air
movement bilaterally
- Abdomen: no tenderness/rigidity/guarding
- Extremities: Warm, no cyanosis/clubbing/edema, palpable
radial/dorsalis pedis pulses. No synovitis of
elbows/wrists/fingers. 

Neurologic Examination:

Mental Status:  
Awake, alert, oriented x 3. 
Attention: Recalls a coherent history; thought process coherent
and linear without circumstantiality and tangentiality.
Concentration maintained when recalling months backwards. 
Affect: distressed
Language: fluent without dysarthria and with intact repetition
and verbal comprehension. No paraphasic errors. Follows two-step
commands, midline and appendicular and crossing the midline.
High- and low-frequency naming intact. Normal reading. Normal
prosody.
Memory: Registration ___ and recall ___. 
Praxis: No ideomotor apraxia or neglect w/o bodypart-as-object 
or
spacing errors. 
Executive function tests: 
Luria hand sequencing learned without verbal reinforcement.

Cranial Nerves: 
[II] Pupils: equal in size and briskly reactive to light and
accommodation.  No RAPD.
VF full to finger counting
Fundoscopy: deferred due to pt having difficulty lying still and
back of head touching pillow exacerbating her ___
[III, IV, VI] EOM intact, no nystagmus
[V] V1-V3 with symmetrical sensation to light touch. Pterygoids
contract normally. 
[VII] No facial asymmetry at rest and with voluntary activation. 

[VIII] Hearing grossly intact.   
[IX, X] Palate elevation symmetric. 
[XI] SCM strength ___. Trapezii ___.
[XII] Tongue shows no atrophy, emerges in midline and moves
easily.

Motor: Normal bulk and tone. No pronation or drift. No tremor or
asterixis.

[ Direct Confrontational Strength Testing ]

Arm
Deltoids [R 5] [L 5]
Biceps  [R 5] [L 5]
Triceps  [R 5] [L 5]
Extensor Carpi Radialis [R 5] [L 5]
Finger Extensors [R 5] [L 5]
Finger Flexors  [R 5] [L 5]

Leg
Iliopsoas [R 5] [L 5]
Quadriceps [R 5] [L 5]
Hamstrings [R 5] [L 5]
Tibialis Anterior [R 5] [L 5]
Gastrocnemius [R 5] [L 5]
Extensor Hallucis Longus  [R 5] [L 5]

Sensory: 
Intact proprioception at halluces bilaterally. 
No deficits to pinprick testing on extremities and trunk but
pinprick over the left occipital area elicits hyperalgesia.
Cortical sensation: No extinction to double simultaneous
stimulation. Graphesthesia intact. 

Reflexes: hyporeflexic throughout. Plantar response flexor
bilaterally. 

Coordination: No rebound. No past-pointing when touching own 
nose
with finger, with eyes closed. No dysmetria on finger-to-nose 
and
heel-knee-shin testing. No dysdiadochokinesia.

Discharge exam is unchanged with the exception that the patient 
is in less distressed and there is less hyperalgesia in the 
occipital region.
 
Pertinent Results:
___ ___: 
FINDINGS: There is no acute hemorrhage, edema or shift of the 
normally midline 
structures.  Slight prominence of the ventricles and sulci is 
presumably from 
age-related involutional changes.  The gray-white matter 
differentiation is 
preserved, without evidence for an acute territorial vascular 
infarction.  The 
basal cisterns remain patent.  There is mild mucosal thickening 
within the 
ethmoid air cells.  Otherwise, the imaged paranasal sinuses and 
mastoid air 
cells are well aerated.  There is no acute osseous abnormality. 
  
IMPRESSION: No acute intracranial process. 

 
Brief Hospital Course:
Ms. ___ was admitted to the general neurology service for 
___ control. She was initially given a loading dose of valproic 
acid in attempt to about her headaches. This provided no 
improvement in her symptoms. With this result, as well as a lack 
of efficancy with previous treatments directed at migraines, 
along with her description of the symptoms, her headaches were 
thought to be most consistent with occipital neuralgia. There 
___ also have been a component of chronic daily headache, as the 
patient has been using NSAIDs for ___ relief on a regular 
basis. She was initially given narcotics PRN for ___ control 
which dulled the ___ somewhat, but did not give total relief. 
The ___ service was consulted who recommended treatment with 
scheduled tylenol, ibuprofen and flexeril. An increase in dosing 
of gabapentin to 600mg TID and starting daily amitriptyline was 
also recommended. The patient was discharged on this regimen 
with close follow up planned at the ___ 
___ and with her neurologist, Dr. ___.
 
Medications on Admission:
Novolog 20 units 
Humilin 75 units qhs
Metformin 1000mg q breakfast, 500mg qlunch, 500mg q dinner,
and 500mg qhs
Levothyroxine 125 mcg daily
Lisinopril 40 units daily
Atorvastatin 20 mg qhs
Albuterol inhaler PRN
Beclamethasone 40 mcg inhalation
ASA 81 mg daily
D3 ___ units daily
Cyanocobalamin ___ mcg daily
Gabapentin 300 mg BID
Oxybutynin 5 mg BID PRN overactive bladder
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 6 hours Disp 
#*120 Tablet Refills:*0
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea, wheezing 
3. Amitriptyline 25 mg PO HS 
RX *amitriptyline 25 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 20 mg PO HS 
6. beclomethasone dipropionate 40 mcg/actuation Inhalation daily 

7. Cyanocobalamin ___ mcg PO DAILY 
8. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times per day 
Disp #*90 Capsule Refills:*0
9. Ibuprofen 800 mg PO Q6H 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*0
10. Levothyroxine Sodium 125 mcg PO DAILY 
11. Lisinopril 40 mg PO DAILY 
12. Oxybutynin 5 mg PO BID:PRN urinary urgency 
13. Vitamin D ___ UNIT PO DAILY 
14. Lidocaine 5% Patch 1 PTCH TD DAILY 
RX *lidocaine HCl-menthol [LenzaPatch] 4 %-1 % apply one patch 
to back of neck daily Disp #*5 Each Refills:*0
15. Cyclobenzaprine 20 mg PO TID 
RX *cyclobenzaprine 10 mg 2 tablet(s) by mouth three times per 
day Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Occipital Neuralgia
SECONDARY: Chronic daily headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neurologic: No neurologic deficits, normal fundoscopic 
examination, left occipital nerve ___ when palpation of the 
left occiput, hyperalgesia.

 
Discharge Instructions:
Mrs. ___,

___ were hospitalized to help develop strategies for the 
management of your head ___ which most likely represents 
Occipital Neuralgia. This may be occuring on a background of 
migraines, but the former is the most significant source of ___ 
at this time. We are recommending a few medication changes to 
help attenuate this form of "neuropathic" ___ and to help 
reduce muscle spasm associated with this as well as your 
cervical stenosis. We have contacted the ___ Service who would 
like to see ___ in the clinic for urgent evaluation (the 
telephone number is provided below).

It was a pleasure providing ___ with care during this 
hospitalization.

The following changes were made to your medications:

1) Changed Gabapentin to 600mg three times per day
2) Started Acetaminophen (Tylenol) ___ every 6 hours
3) Started Ibuprofen 800mg every 6 hours
4) Started Cyclobenzaprine (Flexeril) 20mg three times per day
5) Amitriptyline 25mg at bedtime
6) Lidocaine patch: apply to back of neck daily
 
Followup Instructions:
___